US09428509B2
6-Methoxy-N-methyl-5-((5-(2-methylbenzo[d]oxazol-6-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)picolinamide
The solution of 6-(2-chloro-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), 5-amino-6-methoxy-N-methylpicolinamide (1.05 equiv), xantphos (0.2 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv) in 1,4-dioxane (0.16 M) was added cesium carbonate (1.4 equiv). The reaction mixture was stirred at 150° C. for 2 h under microwave irradiation. The reaction was filtered, and concentrated. The crude was purified using silica gel chromatography (0-90% ethyl acetate (with 10% 1N ammonia in MeOH) in hexane) to give the title compound (82% yield) as yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.11 (s, 9H) 0.84-0.93 (m, 2H) 1.63-1.76 (m, 2H) 2.03-2.16 (m, 2H) 2.64 (s, 3H) 2.84 (d, J=4.69 Hz, 3H) 3.49-3.65 (m, 4H) 3.70-3.80 (m, 2H) 4.12 (s, 3H) 5.52-5.55 (m, 1H) 5.58 (s, 2H) 7.60 (s, 1H) 7.65 (d, J=1.17 Hz, 2H) 7.70 (d, J=8.20 Hz, 1H) 7.91-7.99 (m, 1H) 8.03 (s, 1H) 8.41 (q, J=4.69 Hz, 1H) 8.91 (d, J=7.81 Hz, 1H); MS (ESI) m/z 660.5 [M+1]+.

reactant | 6-(2-chloro-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCOCC2 | C25H31ClN4O4Si
reactant | 5-amino-6-methoxy-N-methylpicolinamide | 1.05 equiv | NC=1C=CC(=NC1OC)C(=O)NC | C8H11N3O2
reactant | xantphos | 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.4 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.16 M | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Methoxy-N-methyl-5-((5-(2-methylbenzo[d]oxazol-6-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)picolinamide | 82% yield | COC1=C(C=CC(=N1)C(=O)NC)NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCOCC2 | C33H41N7O6Si
